* generated DPT SIC750_10R V=425 I=78 Rgon=4.7 Rgoff=2.2 Lloop=3e-8
.include ../models/sic-behavioral.lib
VBUS bus 0 DC 425
CDC bus 0 100u ic=425
LLP bus kd 3e-8
DFW sw kd JBS1200_40
* no snubber
* no clamp
LLD kd sw 0.000042 ic=0
VSNS sw d1 0
LD d1 d 2n
M1 d g ks SIC750_10R
LKS ks s 1.5n
LSP s 0 2n
VDRV drv ks PWL(0 -4 1e-7 -4 1.05e-7 18 0.000007808235294117647 18 0.000007813235294117648 -4 0.000009308235294117648 -4 0.000009313235294117649 18 0.000010108235294117647 18 0.000010113235294117648 -4)
RGN drv gon 4.7
DGN gon g DIDEAL
DGF g goff DIDEAL
RGF goff drv 2.2
.model DIDEAL D(Is=1e-3 N=0.1)
.tran 0.25n 0.000010708235294117647 uic
.option method=gear reltol=1e-3 abstol=1u vntol=1m
.control
set filetype=ascii
run
wrdata dpt-pfc750-lloop30.out v(d,ks) v(g,ks) i(VSNS) v(sw)
quit
.endc
.end